US07018997B2
Ethyl 7-chloroimidazo[2,1-b]-benzthiazole-2-carboxylate was prepared according to the procedure as outlined in Example 1, (Step 1). Starting from 6-chloro-2-amino benzothiazole (9.2 g, 50 mmol) and ethyl bromopyruvate (11.6 g, 60 mmol), 8.5 g (60% Yield) of ethyl 7-chloroimidazo[2,1-b]-benzthiazole-2-carboxylate was isolated as brown solid. (M+H) 281.

reactant | 6-chloro-2-amino benzothiazole | 50 mmol, 9.2 g | ClC1=CC2=C(N=C(S2)N)C=C1 | C7H5ClN2S
reactant | ethyl bromopyruvate | 60 mmol, 11.6 g | BrCC(C(=O)OCC)=O | C5H7BrO3
product | ethyl 7-chloroimidazo[2,1-b]-benzthiazole-2-carboxylate | 8.5 g, 60% Yield | ClC1=CC2=C(N3C(S2)=NC(=C3)C(=O)OCC)C=C1 | C12H9ClN2O2S
